US08703810B2
A solution of resorcinol (3.56 g, 32.3 mmol), 2-(3-hydroxyphenyl)acetic acid (5.39 g, 35.4 mmol), and boron trifluoride etherate (12 mL) in toluene (10 mL) was heated at 90° C. for 2 h. The reaction mixture was allowed to cool to room temperature, and a solution of 12% sodium acetate in H2O (17 mL) was added. After stirring for 3 h, the resulting precipitate was collected by filtration to give 1-(2,4-dihydroxyphenyl)-2-(3-hydroxyphenyl)ethanone (4.47 g, 57%) as a yellow solid. 1H NMR (DMSO-d6): δ 12.57 (s, 1H), 10.67 (s, 1H), 9.34 (s, 1H), 7.92 (d, 1H), 7.09 (m, 2H), 6.65 (m, 2H), 6.40 (m, 1H), 6.25 (s, 1H), 4.14 (s, 2H).

reactant | resorcinol | 32.3 mmol, 3.56 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2-(3-hydroxyphenyl)acetic acid | 35.4 mmol, 5.39 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | boron trifluoride etherate | 12 mL | B(F)(F)F.CCOCC
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 17 mL | O | H2O
product | 1-(2,4-dihydroxyphenyl)-2-(3-hydroxyphenyl)ethanone | 4.47 g, 57% | OC1=C(C=CC(=C1)O)C(CC1=CC(=CC=C1)O)=O | C14H12O4
